Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Right SDH vs. ___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ (AKA ___ is a ___ yo male with history
of developmental delay, stroke, DM, HTN, who is transferred to
___ from ___ on ___ with a TBI. 
He was found down at his group home and was more confused than
baseline. He was unable to ambulate or get into wheelchair
without assistance. 

Neuro exam at ___ was significant for Ox0 (unclear baseline), 
___
BUE, ___ BLE and pinpoint pupils. His RR was ___, so was
intubated due to concern for potential deterioration. Head CT 
was
done which showed a right occipital EDH vs SDH. He was
subsequently transferred to ___ ED for neurosurgery 
evaluation.
 
Past Medical History:
-Developmental delay (per ___ notes)
-HTN
-HLD
-Depression
-DM II with diabetic retinopathy, nephrophathy, and diabetic
neuropathy               
-Osteoporosis
-Hip fracture x2
-Toe osteomyelitis ___
-CVA ___
-PVD
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
On Admission:
-------------
Physical Exam:

O:  T: 97.0   BP: 136/74   HR: 60  RR: 9   O2 Sat: 100% ETT

GCS at the scene: 10 @ OSH

GCS upon Neurosurgery Evaluation:  10T (E3V1M6)        
   Time of evaluation: 19:40

Airway: [x]Intubated   [ ]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [x]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [x]1 Makes no sounds
 [ ]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [x]6 Obeys commands

Exam:

Gen: elderly male intubated and sedated. sedation held for exam
Extrem: warm and well perfused

Neuro:

Mental Status: intubated; EO to voice 

Orientation: intubated 

If Intubated:
  [ ]Cough  [ ]Gag  [x]Over breathing the vent

Cranial Nerves:
I: Not tested
II: Pupils pinpoint. Visual fields unable to assess.
III, IV, VI: midline gaze 
V, VII: Facial appears symmetric 
VIII: Hearing intact to voice.
IX, X: + gag and cough 
XI: unable to assess 
XII: attempts to sick out tongue around tube 

Motor: 
follows commands to squeeze bilateral hands and show thumbs up
bilaterally. wiggles bilateral toes to command. Does not lift
legs antigravity but moves in plane on bed. Briefly holds arms
antigravity if lifted. 

Sensation: difficult to assess 

On Discharge:
-------------
Exam:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [ ]Place - "rehab in ___ [ ]Time
Baseline is oriented to self only and intermittent place
Follows commands: [x]Simple [ ]Complex [ ]None
Pupils:  PERRL 2mm reactive
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     Speech Fluent: [x]Yes [ ]No
Comprehension intact [x]Yes [ ]No

Motor:
Pt has difficulty with fine motor exam - following complex
commands 

Moving BUE spontaneously and independently - ___ in strength
Moving BLE spontaneously and independently and equally : ___

Increased tone noted in all four extremities 
 
[x]Sensation intact to light touch

 
Pertinent Results:
Please see OMR for relevant laboratory and imaging results.
 
Brief Hospital Course:
___ year old male with right SDH vs. EDH.

#Right SDH vs. EDH
Patient was admitted for close neurologic monitoring. He was 
extubated and was determined to be at his neurologic baseline. 
He remained neurologically stable throughout his hospitalization 
and at his baseline on day of discharge. 

#Lip swelling
The patient was noted to have swelling of his upper lip, likely 
due to trauma from intubation.  He did not have any respiratory 
compromise and swelling improved over his hospital stay.

#Fever
Patient was febrile on ___, urinalysis was concerning for UTI 
so he was started on 3 day course of IV ceftriaxone. He 
completed 2 days of his ceftriaxone course and was transitioned 
to Ciprofloxacin 500mg BID x 5 days to complete his treatment. 

#Discharge planning
The patient was evaluated by physical therapy who recommended 
discharge to rehab.  Anticipate rehab length of stay less than 
30 days.
 
Medications on Admission:
-Acetaminophen 975 mg PO Q8H:PRN Pain - Mild 
-Atorvastatin 80 mg PO QPM* 
-FLUoxetine 20 mg PO DAILY 
-irbesartan 150 mg oral DAILY* 
-MetFORMIN (Glucophage) 1000 mg PO BID*
-Metoprolol Succinate XL 50 mg PO DAILY* 
-Repaglinide 0.5 mg PO TIDAC*
-Tradjenta (linagliptin) 5 mg oral DAILY*
-amLODIPine 5 mg PO DAILY 
-Aspirin 81 mg PO DAILY 
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild/Fever  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN Constipation - Third Line  
3.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 5 Days  
4.  Docusate Sodium 100 mg PO BID  
5.  Glucagon 1 mg IM Q15MIN:PRN hypoglycemia protocol  
6.  Glucose Gel 15 g PO PRN hypoglycemia protocol  
7.  Heparin 5000 UNIT SC BID  
8.  Insulin SC 
      Sliding Scale

Fingerstick QACHS
Insulin SC Sliding Scale using REG Insulin 
9.  Polyethylene Glycol 17 g PO DAILY:PRN Constipation - First 
Line 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 
10.  Senna 8.6 mg PO BID:PRN Constipation - Second Line  
11.  Tradjenta (linaGLIPtin) 5 mg oral DAILY  
12.  amLODIPine 5 mg PO DAILY  
13.  Aspirin 81 mg PO DAILY  
14.  Atorvastatin 80 mg PO QPM  
15.  Ferrous Sulfate 325 mg PO DAILY  
16.  FLUoxetine 20 mg PO DAILY  
17.  irbesartan 150 mg oral DAILY  
18.  MetFORMIN (Glucophage) 1000 mg PO BID  
19.  Metoprolol Tartrate 25 mg PO BID  
20.  Multivitamins 1 TAB PO DAILY  
21.  Repaglinide 0.5 mg PO TIDAC  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Right subdural hematoma
urinary tract infection 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Activity
• We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
• You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
• No driving while taking any narcotic or sedating medication. 
• If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
• No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications
• Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

What You ___ Experience:
• You may have difficulty paying attention, concentrating, and 
remembering new information.
• Emotional and/or behavioral difficulties are common. 
• Feeling more tired, restlessness, irritability, and mood 
swings are also common.
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:
• Headache is one of the most common symptom after a brain 
bleed. 
• Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
• Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
• There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the incision 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg
 
Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
• Sudden numbness or weakness in the face, arm, or leg
• Sudden confusion or trouble speaking or understanding
• Sudden trouble walking, dizziness, or loss of balance or 
coordination
• Sudden severe headaches with no known reason
 
Followup Instructions:
___